*****************************************************************
* NXP BUK9K134-100E
*
* Polarity N-Channel
* Ratings 100V/1.590000E-001OHMS/8.54613206558831A
*
* Date Created Tue Jul 02 23:33:07 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K134-100E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.8e-10
RLS2 SOURCE 8 1.20637157897848
RLS1 8 7 0.00055

RDS 7 4 10000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.118598798570093 TC=0.00944366391316934,2.79484960056941E-05
RBD 9 4 0.00677716505643425 TC=0.00944366391316934,2.79484960056941E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5000000000
CGS 2 6 4.84e-10
RG 1 2 3.04932

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	542.576
+ -10	541.57
+ -8	540.076
+ -6	537.796
+ -5	535.999
+ -4	533.227
+ -3	526.329
+ -2	525.923
+ -1	363.95
+ -0.5	272.329
+ -0.2	207.012
+ -0.1	205.175
+ 0	163.12572
+ 0.1	127.7338
+ 0.2	127.59528
+ 0.5	108.79344
+ 1	94.4065
+ 2	77.77351
+ 3	72.71357
+ 4	68.03295
+ 5	63.8976
+ 6	60.57407
+ 8	55.59446
+ 10	51.96935
+ 12	49.12759
+ 15	45.74099
+ 16	44.73137
+ 20	41.50215
+ 25	38.33072
+ 30	35.83821
+ 50	29.48631



.MODEL MINT NMOS(Vto=2.25479857009258 Kp=4.703196e+001 Nfs=760000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=5.3983934968465e-13
+ N=1 M=0.61 VJ=0.73 Fc=0.5 Cjo=1.2457684e-10 Tt=2.072e-08)

.ENDS

